US07786165B2
3-[2-fluoro-4-({4-[((3-methylbutyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}amino)phenyl]propanoic acid
To a solution of ethyl 3-[2-fluoro-4-({4-[((3-methylbutyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}amino)phenyl]propanoate (0.450 g, 0.720 mmol) in a mixture of ethanol (6 mL) and tetrahydrofuran (15 mL) was added 1 N sodium hydroxide (4.32 mL, 4.32 mmol), and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from diethyl ether-hexane to give the title compound (0.274 g, yield 64%) as colorless crystals.

reactant | ethyl 3-[2-fluoro-4-({4-[((3-methylbutyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}amino)phenyl]propanoate | 0.720 mmol, 0.450 g | FC1=C(C=CC(=C1)NCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(C)C)CCC(=O)OCC | C34H37F4N3O2S
reactant | sodium hydroxide | 4.32 mmol, 1 N, 4.32 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-[2-fluoro-4-({4-[((3-methylbutyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]benzyl}amino)phenyl]propanoic acid | 0.274 g, yield 64% | FC1=C(C=CC(=C1)NCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(C)C)CCC(=O)O | C32H33F4N3O2S
